US07968581B2
Step 4: 4-[4-(3-Cyanophenyl)-2,5-dioxo-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile
To a solution of 579 mg of 3-[2,5-dioxo-4-[(2-propenyloxy)methyl]imidazolidin-4-yl]benzonitrile and 534 mg of 4-bromo-2-(trifluoromethyl)benzonitrile in DMAC (2.5 mL), 183 mg of copper oxide are added. The mixture is refluxed overnight at 130° C. The mixture is concentrated, taken in DCM, washed with a solution of 10% aqueous ammonia solution and brine. The organic phase is dried over magnesium sulfate, concentrated under vacuum and purified on silica gel (ethyl acetate/cyclohexane 0/100 to 50/50) to give the desired compound.

reactant | 3-[2,5-dioxo-4-[(2-propenyloxy)methyl]imidazolidin-4-yl]benzonitrile | 579 mg | O=C1NC(C(N1)(COCC=C)C=1C=C(C#N)C=CC1)=O | C14H13N3O3
reactant | 4-bromo-2-(trifluoromethyl)benzonitrile | 534 mg | BrC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3BrF3N
solvent | DMAC | 2.5 mL | CC(=O)N(C)C | C4H9NO
catalyst | copper oxide | 183 mg | [Cu]=O
product | 4-[4-(3-Cyanophenyl)-2,5-dioxo-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | C(#N)C=1C=C(C=CC1)C1(NC(N(C1=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)COCC=C | C22H15F3N4O3
